US05202349
a) 3-(4-Methoxy-phenylethynyl)-benzaldehyde
4-Methoxyphenylacetylene was reacted with 3-bromobenzaldehyde in the manner described in Example 1a to yield the title compound in form of white crystals melting at 52°-53° C.

reactant | 4-Methoxyphenylacetylene | COC1=CC=C(C=C1)C#C | C9H8O
reactant | 3-bromobenzaldehyde | BrC=1C=C(C=O)C=CC1 | C7H5BrO
product | 3-(4-Methoxy-phenylethynyl)-benzaldehyde | COC1=CC=C(C=C1)C#CC=1C=C(C=O)C=CC1 | C16H12O2
